US06960583B2
A. N-(1-(Methylthio)ethylidene)-2,4-dichlorobenzamide
A mixture of N-(thioacetyl)-2,4-dichlorobenzamide (400 mg, 1.6 mmol) and K2CO3 (445 mg, 3.22 mmol) in anhydrous acetonitrile (20 mL) was stirred at ambient temperature. Iodomethane (458 mg, 0.2 mL, 3.22 mmol) was added and the reaction mixture was then stirred for 2.5 h. Solvent was removed in vacuo and the residue was partitioned between ether and water. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to give an oil (406 mg): NMR (CDCl3,300 MHz): δ 7.86 (d, 1H, J=8), 7.47 (d, 1H, J=2), 7.32 (dd, 1H, J=8, 2), 2.40 (s, 3H), 2.29 (s, 3H).

reactant | N-(thioacetyl)-2,4-dichlorobenzamide | 1.6 mmol, 400 mg | C(C)(=S)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C9H7Cl2NOS
reactant | K2CO3 | 3.22 mmol, 445 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Iodomethane | 3.22 mmol, 0.2 mL, 458 mg | IC | CH3I
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(1-(Methylthio)ethylidene)-2,4-dichlorobenzamide | 406 mg | CSC(C)=NC(C1=C(C=C(C=C1)Cl)Cl)=O | C10H9Cl2NOS
